US07973061B2
(4-Trifluoromethoxyphenoxy)-acetic acid tert-butyl ester:
tert-Butyl bromoacetate was added to a stirring suspension of potassium carbonate (14.6 g, 106 mmol), 4-(trifluoromethoxy)phenol (15.7 g, 88 mmol) and DMF (50 mL). The reaction mixture was stirred for 12 hours. The mixture was diluted with EtOAc and water. The layers were separated and the aqueous layer was extracted with 3×EtOAc. The combined organic layers were washed with 5% aqueous lithium chloride and brine, dried over sodium sulfate, filtered, and reduced in vacuo to afford the title compound as a colorless oil: 1H NMR (400 MHz, d6-DMSO): 7.27 (d, 2H), 6.98 (d, 2H), 4.68 (s, 2H), 1.42 (s, 9H).

reactant | tert-Butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | 106 mmol, 14.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(trifluoromethoxy)phenol | 88 mmol, 15.7 g | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | (4-Trifluoromethoxyphenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC=C(C=C1)OC(F)(F)F)=O | C13H15F3O4
